Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal bloating
 
Major Surgical or Invasive Procedure:
Right salpingo-oophorectomy
Left cystectomy

 
History of Present Illness:
Ms. ___ is a ___ gravida 0 woman who complains of 
abdominal bloating. She has a long gynecological history 
significant for uterine fibroids, endometriosis, and 
endometriomas. While she first started having symptoms of 
abdominal bloating, menorrhagia, severe menstrual cramping, 
urinary frequency, nocturia, and constipation in ___, her 
multiple gynecological diagnoses were not made until she 
received her first pelvic ultrasound in ___. After multiple 
myomectomies with Dr. ___ patient was followed 
biannually, then annually, and finally as needed for symptoms. 
In ___, ___ noticed abdominal bloating, which she 
described as a sensation of heaviness in her lower abdomen. A 
pelvic ultrasound in ___ showed an unchanged fibroid 
uterus, an unchanged 5.6cm left-sided endometrioma, and a new 
nodular 7.5cm right-sided endometrioma up to 5mm in wall 
thickness, concerning for malignant transformation. The patient 
presents today for surgical evaluation of her imaging findings. 
ROS was negative for F/C, CP, SOB, abdominal pain, N/V, C/D, 
changes in bowel or bladder habits, or intermenstrual bleeding. 
ROS was positive for mild dysmenorrhea, relieved by OTC NSAIDs.
 
Past Medical History:
Past OB/GYN: The patient has regular menses. She has never had a 
pregnancy. Her last Pap smear was in ___, which was 
normal. She does have a history of genital warts. The patient 
has a long history of uterine fibroids, endometriosis, 
endometriomas. She is in a monogamous relationship with a female 
partner and uses a Mirena IUD.

PMH:
Allergic rhinitis
Depression
Uterine fibroids
Endometriosis
Endometriomas
Pseudocholinesterase deficiency

PSH:
Medial collateral ligament release – ___
Abdominal MMY
 
Social History:
___
Family History:
Her mother had hypertension and died of colon cancer. Her father 
has hypertension and prostate cancer.
 
Physical Exam:
DISCHARGE EXAM:
VS: 
Gen:  This is a well-developed, well-nourished woman in no 
apparent distress.
HEENT: Mucus membranes moist. Oropharynx clear.
CV: Regular rate and rhythm. Normal S1 and S2 without murmurs, 
rubs, or gallops.
Pulm: Clear to auscultation bilaterally 
Abd: Normoactive bowel sounds. Soft, nondistended, nontender.  
No hepatosplenomegaly.  Well-healed ___ scar from her 
previous MMY.  Incision intact.
Pelvic: Normal female external genitalia. No rashes or lesions. 
Bartholin, urethral, and Skene's glands were normal.  The 
vaginal vault contained normal-appearing vaginal discharge.  The 
cervix was nulliparous, without cervical motion tenderness. 
Uterus was mobile and adnexa were difficult to appreciate given 
the patient’s habitus.
Ext: 2+ peripheral pulses. No clubbing, cyanosis, or edema.
Neuro: Awake, alert, and oriented to person, place, and time. 
Gross motor and sensory functions intact.

 
Brief Hospital Course:
Ms. ___ is a ___ gravida 0 with a history of uterine 
fibroids, endometriosis, and endometriomas who complains of 
worsening abdominal bloating and was found to have a 7.5 cm 
right endometrioma concerning for malignancy. She was taken to 
the OR for right salpingo-oophorectomy and left cystectomy with 
possible total abdominal hysterectomy and cancer staging. 
Intraoperatively, she was found to have an unchanged fibroid 
uterus, evidence of endometriosis, and bilateral endometriomas. 
A right salpingo-oophorectomy and left cystectomy were 
performed. Frozen pathology sections were found to contain only 
benign columnar epithelium, and therefore the patient was 
closed. Cystoscopy showed bilateral ureteral jets of indigo 
___ dye, suggestive of intact ureters at the end of the 
procedure.  Please refer to the operative note for full details. 
Postoperatively, the patient did well, tolerating a regular diet 
and oral pain medications by POD1. On POD1, her Foley catheter 
was removed. She was discharged to home in good condition on 
post-operative day 2.
 
Medications on Admission:
Duloxetine 60mg PO QD
Lorazapam 0.5mg PO QD as needed
 
Discharge Medications:
1. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*2*
2. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
3. duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO QID (4 times a day) as needed 
for dyspepsia.  
5. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Endometriomas

Secondary diagnoses: Fibroid uterus, endometriosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex), no 
heavy lifting of objects >10lbs for 6 weeks.    
* You may eat a regular diet  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.  
* If you have staples, they will be removed at your follow-up 
visit.  
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___